US09315521B2
To a solution of (3,5-dimethyl-1,2-oxazol-4-yl)methanol (805 mg, 6.3 mmol) in anhydrous dichloromethane (60 mL) was added dropwise phosphorus tribromide (1.2 mL, 12.6 mmol). The mixture was stirred at room temperature for 3 hours. Dichloromethane was evaporated, and the residue was dried in vacuo, affording 4-(bromomethyl)-3,5-dimethyl-1,2-oxazole. The product was used without further purification.

reactant | (3,5-dimethyl-1,2-oxazol-4-yl)methanol | 6.3 mmol, 805 mg | CC1=NOC(=C1CO)C | C6H9NO2
reactant | phosphorus tribromide | 12.6 mmol, 1.2 mL | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 4-(bromomethyl)-3,5-dimethyl-1,2-oxazole | BrCC=1C(=NOC1C)C | C6H8BrNO
